US04042397
a. N-cyclohexyl-N'-(2-fluorosulphonylphenyl) urea
To a stirred solution of 2-fluorosulphonyl phenyl isocyanate (804 g, 4 moles) in benzene (4 l), cyclohexylamine (457 ml, 4 moles) was added dropwise, whilst the temperature was kept at 60°. The mixture was left standing overnight at room temperature, whereupon the product was collected, washed with benzene (4 l) and dried. Yield : 1070-1090 g (89-90 %), melting point: 177° C.

reactant | 2-fluorosulphonyl phenyl isocyanate | 4 moles, 804 g | FS(=O)(=O)C1=C(C=CC=C1)N=C=O | C7H4FNO3S
reactant | cyclohexylamine | 4 moles, 457 ml | C1(CCCCC1)N | C6H13N
solvent | benzene | 4 l | C1=CC=CC=C1 | C6H6
product | N-cyclohexyl-N'-(2-fluorosulphonylphenyl) urea | C1(CCCCC1)NC(=O)NC1=C(C=CC=C1)S(=O)(=O)F | C13H17FN2O3S
